US06235731B1
To a solution of 4.0 g (16.3 mM) of N-methyl-N-(3-phenylpropan-1-yl)trifluoroacetamide in ethanol (30 ml) was added 1.23 g (32.5 mM) of sodium borohydride at room temperature and the mixture was stirred at the prevailing temperature for 15 hours. This reaction mixture was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide crude (3-phenylpropan-1-yl)methylamine (2.5 g) as light-yellow oil. A solution of 2.6 g (<16.3 mM) of this (3-phenylpropan-1-yl)methylamine, 4.81 g (17.9 mM) of N-(3-bromopropyl)phthalimide, and 3.0 ml (21.5 mM) of triethylamine was refluxed for 20 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and purified by column chromatography (methanol-ethyl acetate 20%) to provide the title compound.

reactant | N-methyl-N-(3-phenylpropan-1-yl)trifluoroacetamide | 16.3 mM, 4.0 g | CN(C(C(F)(F)F)=O)CCCC1=CC=CC=C1 | C12H14F3NO
reactant | sodium borohydride | 32.5 mM, 1.23 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (3-phenylpropan-1-yl)methylamine | 2.5 g | C1(=CC=CC=C1)CCCNC | C10H15N
